US07109199B2
3-Chloro-6-(2,3-difluorophenyl)pyridazine-4-carbonitrile
3-Chloro-6-(2,3-difluorophenyl)pyridazine-4-carboxamide (3.03 g, 11.2 mmol) was stirred in phosphoryl chloride (30 mL) at reflux for 3 hours, cooled, and evaporated to dryness. The residue was dissolved in dichloromethane, washed with saturated sodium hydrogen carbonate solution, dried (MgSO4) and evaporated to give the title compound as a solid.

reactant | 3-Chloro-6-(2,3-difluorophenyl)pyridazine-4-carboxamide | 11.2 mmol, 3.03 g | ClC=1N=NC(=CC1C(=O)N)C1=C(C(=CC=C1)F)F | C11H6ClF2N3O
solvent | phosphoryl chloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-6-(2,3-difluorophenyl)pyridazine-4-carbonitrile | ClC=1N=NC(=CC1C#N)C1=C(C(=CC=C1)F)F | C11H4ClF2N3
